US08431596B2
3-{2-[4-(2-Pyrrolidin-1-yl-ethoxy)-phenylamino]-[1,2,4]triazolo[1,5-a]pyridin-5-yl}-benzoic acid
3-{2-[4-(2-Pyrrolidin-1-yl-ethoxy)-phenylamino]-[1,2,4]triazolo[1,5-a]pyridin-5-yl}-benzoic acid ethyl ester (1.28 g, 2.71 mmol) was dissolved in ethanol (20 ml) and potassium hydroxide (0.45 g, 8.12 mmol) was added. The reaction was heated to reflux for 3 hrs. Upon cooling the solvent was removed in vacuo and aqueous sodium hydrogencarbonate added to the residue. The basic aqueous layer was washed with dichloromethane, then neutralised with 2M HCl and the resulting precipitate collected by filtration, washed with water and toluene, then dried under vacuum to give the desired product. Yield: 0.64 g, 53%. LCMS RT: 2.45 min, MI: 444, Method: 2.

reactant | 3-{2-[4-(2-Pyrrolidin-1-yl-ethoxy)-phenylamino]-[1,2,4]triazolo[1,5-a]pyridin-5-yl}-benzoic acid ethyl ester | 2.71 mmol, 1.28 g | C(C)OC(C1=CC(=CC=C1)C1=CC=CC=2N1N=C(N2)NC2=CC=C(C=C2)OCCN2CCCC2)=O | C27H29N5O3
reactant | potassium hydroxide | 8.12 mmol, 0.45 g | [OH-].[K+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 3-{2-[4-(2-Pyrrolidin-1-yl-ethoxy)-phenylamino]-[1,2,4]triazolo[1,5-a]pyridin-5-yl}-benzoic acid | N1(CCCC1)CCOC1=CC=C(C=C1)NC1=NN2C(C=CC=C2C=2C=C(C(=O)O)C=CC2)=N1 | C25H25N5O3
